US07807671B2
A one liter three necked round bottom flask was charged with Boc-piperazine (20 g), dry potassium carbonate (44.5 g) and dry DMF (150 ml) under nitrogen atmosphere. The reaction mixture was cooled to 0° C. and bromoacetophenone (23.5 g) was added into the reaction mixture very slowly. The reaction mixture was stirred at room temperature for overnight. The progress of reaction was monitored by TLC. After consumption of starting material, ice-cold water (200 ml) was added to reaction mixture. The precipitated white solid was filtered, washed with water (4×50 ml) and dried to afford tert-butyl 4-(2-oxo-2-phenylethyl)piperazine-1-carboxylate as pure product.

reactant | Boc-piperazine | 20 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | potassium carbonate | 44.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetophenone | 23.5 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | tert-butyl 4-(2-oxo-2-phenylethyl)piperazine-1-carboxylate | O=C(CN1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C17H24N2O3
